US08212045B2
A flask was charged with (S)-2,2-dimethyl-N-(methylsulfonyloxy)-1,3-dioxolane-4-carbimidoyl chloride (4.5 g, 18 mmol), sodium thiocyanate (1.3 g, 15 mmol), pyridine (3.8 ml, 46 mmol), and ethyl acetate (200 mL). The reaction was stirred and heated at 40° C. for 45 minutes. 3-(2-Methylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-amine (3.2 g, 10 mmol) was added and the reaction was stirred at 70° C. overnight. Water was added and the reaction was extracted with ethyl acetate, dried over sodium sulfate, filtered and concentrated. The residue was purified over silica gel (25 to 100% ethyl acetate in hexanes) to afford (R)-3-(2,2-dimethyl-1,3-dioxolan-4-yl)-N-(3-(2-methylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-1,2,4-thiadiazol-5-amine (3.8 g, 7.7 mmol, 75% yield).

reactant | (S)-2,2-dimethyl-N-(methylsulfonyloxy)-1,3-dioxolane-4-carbimidoyl chloride | 18 mmol, 4.5 g | CC1(OC[C@H](O1)C(=NOS(=O)(=O)C)Cl)C | C7H12ClNO5S
reactant | sodium thiocyanate | 15 mmol, 1.3 g | [S-]C#N.[Na+]
reactant | pyridine | 46 mmol, 3.8 ml | N1=CC=CC=C1 | C5H5N
reactant | 3-(2-Methylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-amine | 10 mmol, 3.2 g | CC1=NC=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)N | C16H14N4OS
solvent | Water | O | H2O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | (R)-3-(2,2-dimethyl-1,3-dioxolan-4-yl)-N-(3-(2-methylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-1,2,4-thiadiazol-5-amine | 7.7 mmol, 3.8 g, 75% yield | CC1(OC[C@H](O1)C1=NSC(=N1)NC1=NC=C(C=C1OC=1C(=NC=CC1)C)SC1=NC=CC=C1)C | C23H22N6O3S2
